US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-5-cyano-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide
To a stirring solution of N-(5-chloropyridin-2-yl)-5-iodo-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide (0.50 g, 0.94 mmol) in N,N-dimethylformamide (6 mL) was added zinc cyanide (70 mg, 0.58 mmol) followed by tetrakis(triphenylphosphine)palladium(0) (49 mg, 0.04 mmol). The reaction mixture was stirred at 83° C. for 6 h and then at room temperature overnight. It was then partitioned between 3:1 chloroform:isopropanol and ammonium hydroxide and the layers separated. The organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product was suspended in methanol and filtered. The filtered solid was then slurried in diethyl ether and filtered to give 70 mg (18%) of the title compound as white solid. The methanolic filtrate was concentrated in vacuo and purified by chromatography over silica gel, eluting with 5-20% 2 M ammonia/methanol solution in dichloromethane. The chromatography product was slurried in methanol and filtered to give an additional 0.14 g (35%) of the title compound.

reactant | N-(5-chloropyridin-2-yl)-5-iodo-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide | 0.94 mmol, 0.50 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)I)NC(=O)C1CCN(CC1)C(C)C)=O | C21H24ClIN4O2
reactant | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 0.58 mmol, 70 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.04 mmol, 49 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(5-Chloropyridin-2-yl)-5-cyano-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide | 70 mg, 18% | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)C#N)NC(=O)C1CCN(CC1)C(C)C)=O | C22H24ClN5O2
